US07232821B2
5-{2-[5-Chloro-2-Benzyloxyphenyl]Cyclopenten-1-Enyl}-2-Methylbenzoic Acid Ethyl Ester
(5-chloro-2-benzyloxyphenyl)boronic acid (150 mg, 0.5 mmol), Pd(0)[PPh3]4 (25 mg, 0.021 mmol), potassium carbonate (483 mg, 3.36 mmol) and (3-(2-bromo-cyclopent-1-enyl)-6-methylbenzoic acid ethyl ester (130 mg, 0.42 mmol) in toluene-ethanol (1:1 10 mL) were stirred at 90° C., under nitrogen, for 2 hrs. Upon cooling, the reaction mixture was poured into water and extracted with ethyl acetate (3×20 mL). The combined organic layers were dried (MgSO4), filters and concentrated. The residue was purified on a Biotage® using 5% of ethyl acetate in iso-hexane to give the required product as white solid (114 mg, 61%). 1HNMR (CDCl3):1.27(3H,t, J=12 Hz), 2.01–2.08(2H, m), 2.51(3H, s), 2.83(2H, t, J=6 Hz), 2.90(2H, t, J=6 Hz), 4.94(2H, s), 6.80(1H, d, J=Hz), 6.97–7.70 (9H, m), 7.70(1H, s). LC/MS; Rt=4.22 [M+H] 447 (1 Cl)

reactant | (5-chloro-2-benzyloxyphenyl)boronic acid | 0.5 mmol, 150 mg | ClC=1C=CC(=C(C1)B(O)O)OCC1=CC=CC=C1 | C13H12BClO3
reactant | potassium carbonate | 3.36 mmol, 483 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3-(2-bromo-cyclopent-1-enyl)-6-methylbenzoic acid ethyl ester | 0.42 mmol, 130 mg | C(C)OC(C1=CC(=CC=C1C)C1=C(CCC1)Br)=O | C15H17BrO2
reactant | water | O | H2O
solvent | toluene-ethanol | 10 mL | C=1(C(=CC=CC1)CCO)C | C9H12O
product | 5-{2-[5-Chloro-2-Benzyloxyphenyl]Cyclopenten-1-Enyl}-2-Methylbenzoic Acid Ethyl Ester | 114 mg, 61% | C(C)OC(C1=C(C=CC(=C1)C1=C(C=CC1)C1=C(C=CC(=C1)Cl)OCC1=CC=CC=C1)C)=O | C28H25ClO3
